US04218448
A mixture of 3.0 g. (0.0075 mole) of 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-5-nitro-4H-pyrrolo[3,2,1-ij]quinolin-4-one, 150 ml. of alcohol, and 0.5 g. of 10% palladium on charcoal is hydrogenated at an initial pressure of 3 atmospheres in a Parr shaker apparatus until uptake is complete. The catalyst is filtered off, and the filtrate is evaporated. Recrystallization of the residue from alcohol gives 1.7 g (62% ) of 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-5-amino-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one, m.p. 292°-293°.

reactant | 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-5-nitro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 0.0075 mole | FC(C(C(F)(F)F)(O)C=1C=C2C(=C(C(N3C2=C(C1)CC3)=O)[N+](=O)[O-])C)(F)F | C15H10F6N2O4
catalyst | palladium on charcoal | [Pd] | Pd
product | 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-5-amino-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 1.7 g, 62% | FC(C(C(F)(F)F)(O)C=1C=C2C(=C(C(N3C2=C(C1)CC3)=O)N)C)(F)F | C15H12F6N2O2
